US07592373B2
4.4.d. 3-biphenyl-4-ylpropynoic acid-[3-chloro-4-(2-diethylaminoethoxy)phenyl]amide
Prepared analogously to Example 4.1.d. from biphenyl-4-ylpropynoic acid chloride and [2-(2-chloro-4-aminophenoxy)ethyl]diethylamine. Yield: 0.28 g (31.3% of theory); melting point: 105° C.-108° C.; C27H27ClN2O2 (M=446.98); calc.: molecular ion peak (M+H)+: 447/449; found: molecular ion peak (M+H)+: 447/449; Rf value: 0.5 (silica gel, dichloromethane/methanol/ammonia (9:1:0.1)).

reactant | biphenyl-4-ylpropynoic acid chloride | C1(=CC=C(C=C1)C#CC(=O)Cl)C1=CC=CC=C1 | C15H9ClO
reactant | [2-(2-chloro-4-aminophenoxy)ethyl]diethylamine | ClC1=C(OCCN(CC)CC)C=CC(=C1)N | C12H19ClN2O
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
product | 3-biphenyl-4-ylpropynoic acid-[3-chloro-4-(2-diethylaminoethoxy)phenyl]amide | ClC=1C=C(C=CC1OCCN(CC)CC)NC(C#CC1=CC=C(C=C1)C1=CC=CC=C1)=O | C27H27ClN2O2
